US09120822B2
10% Palladium on activated carbon (140 mg, 0.14 mmol, 0.05 eq) is added at room temperature to a stirred solution of 6-methoxy-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid (700 mg, 2.72 mmol, 1.0 eq) in methanol (20 mL) and tetrahydrofuran (20 mL). The resulting mixture is stirred under hydrogen flow (3 bars) at room temperature for 48 hours. The catalyst is then removed by filtration and the solution is concentrated to afford 6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid as a light yellow semisolid (520 mg, 74% yield) which is directly engaged in the next step.

reactant | 6-methoxy-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid | 2.72 mmol, 700 mg, 1.0 eq | COC=1C=C2C=3C=C(COC3C=NC2=CC1)C(=O)O | C14H11NO4
catalyst | Palladium on activated carbon | 0.14 mmol, 140 mg, 0.05 eq | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid | 520 mg, 74% yield | COC=1C=C2C=3CC(COC3C=NC2=CC1)C(=O)O | C14H13NO4
